US07572928B2
To a round-bottomed flask containing 1-phenyl-hex-5-en-3-ol (43 mg, 0.24 mmol, 1 eq)) in DCM (2 mL) was added allyltriisopropylsilane (0.173 mL, 0.72 mmol, 3 eq). Hoveyda-Grubbs' Catalyst (4 mg, 0.006 mmol, 0.025 eq) was subsequently added as a solid and the reaction was left to stir under an atmosphere of argon. After 6 days the reaction was concentrated under reduced pressure to a dark brown oil. Column chromatography (hexane:ether, 100:0, 90:10, 85:15) gave 1-phenyl-7-(triisopropylsilyl)hept-5-en-3-ol as a colourless oil (51 mg, 61% yield). For major isomer E: 1H NMR (400 MHz, CDCl3) δ 1.05 (s, 21H, Si(i−Pr)3), 1.60-1.62 (d, 2H, CH2 Si(i−Pr)3, J=8 Hz), 1.72-1.85 (m, 2H, CH2CH2CHOH), 2.06-2.14 (m, 1H, CHOHCH2CH), 2.22-2.34 (m, 1H, CHOHCH2CH), 2.64-2.74 (m, 1H, PhCH2), 2.78-2.87 (m, 1H, PhCH2), 3.58-3.64 (m, 1H, CHOH), 5.24-5.34 (m, 1H, CH2CHCH), 5.58-5.66 (dt, 1H, CH2CHCH, J=16, 8 Hz), 7.17-7.23 (m, 4H, Ph), 7.27-7.31 (m, 1H, Ph); 13C NMR (100 MHz, CDCl3) δ 11.0 (Si(i−Pr)3), 15.6 (CH2 Si(i−Pr)3), 18.7 (Si(i−Pr)3), 32.1 (PhCH2), 38.4 (PhCH2CH2), 41.1 (CHOHCH2), 70.4 (CHOH), 123.9 (CH2CHCH), 125.7 (Ph), 128.3 (Ph), 128.4 (Ph), 131.9 (CH2CHCH), 142.2 (Ph). For minor isomer Z: 1H NMR (400 MHz, CDCl3) δ 1.05 (s, 21H, Si(i−Pr)3), 1.60-1.62 (d, 2H, CH2 Si(i−Pr)3, J=8 Hz), 1.72-1.85 (m, 2H, CH2CH2CHOH), 2.06-2.14 (m, 1H, CHOHCH2CH), 2.22-2.34 (m, 1H, CHOHCH2CH), 2.64-2.74 (m, 1H, PhCH2), 2.78-2.87 (m, 1H, PhCH2), 3.65-3.71 (m, 1H, CHOH), 5.24-5.34 (m, 1H, CH2CHCH), 5.68-5.75 (dt, 1H, CH2CHCH, J=12, 8 Hz), 7.17-7.23 (m, 4H, Ph), 7.27-7.31 (m, 1H, Ph); 13C NMR (100 MHz, CDCl3) δ 11.0 (Si(i−Pr)3), 15.6 (CH2 Si(i−Pr)3), 18.7 (Si(i−Pr)3), 32.1 (PhCH2), 35.3 (CHOHCH2), 38.4 (PhCH2CH2), 70.9 (CHOH), 122.3 (CH2CHCH), 125.7 (Ph), 128.3 (Ph), 128.4 (Ph), 130.3 (CH2CHCH), 142.2 (Ph); IR (v, cm−1) 3362 (OH), 3026 (Ar—H), 1604 (C═C), 1496 (Ar), 1462 (Ar), 699 (Si—C); HRMS required for C22H38OSi: 346.2692, found 346.2683.

reactant | 1-phenyl-hex-5-en-3-ol | 0.24 mmol, 43 mg, 1 eq | C1(=CC=CC=C1)CCC(CC=C)O | C12H16O
reactant | allyltriisopropylsilane | 0.72 mmol, 0.173 mL, 3 eq | C(C=C)[Si](C(C)C)(C(C)C)C(C)C | C12H26Si
reactant | hexane | CCCCCC | C6H14
reactant | ether | CCOCC | C4H10O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Hoveyda-Grubbs' Catalyst | 0.006 mmol, 4 mg, 0.025 eq | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
product | 1-phenyl-7-(triisopropylsilyl)hept-5-en-3-ol | 51 mg, 61% yield | C1(=CC=CC=C1)CCC(CC=CC[Si](C(C)C)(C(C)C)C(C)C)O | C22H38OSi
